US08557984B2
Intermediate 3: 3,5-Dimethyl-4-[2-(methoxy)-5-nitrophenyl]isoxazole
To a solution of 2-iodo-1-(methoxy)-4-nitrobenzene (2 g, 7.17 mmol, 1 eq.) and (3,5-dimethylisoxazole)boronic acid (3.03 g, 21.5 mmol, 3 eq.) in DME (44 ml) and water (7 ml) were added tetrakis(triphenylphosphine) palladium(0) (0.415 g, 0.05 eq.) and Ba(OH)2.8H2O (4.52 g, 14.33 mmol, 2 eq.). The mixture was heated at 80° C. for 16 h. To complete the reaction (3,5-dimethylisoxazole)boronic acid (1 eq.) was added and the mixture was heated for 4 h. The cooled mixture was filtered and extracted with DCM. The organic phase was washed with saturated aqueous Sodium hydrogen carbonate and water, dried over Na2SO4 and filtered. Evaporation of the solvent in vacuo gave a crude oil which was precipitated with iPr2O to afford the title compound as a rust solid (1.735 g, 97%). GC/MS m/z: 248

reactant | 2-iodo-1-(methoxy)-4-nitrobenzene | 7.17 mmol, 2 g, 1 eq. | IC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6INO3
reactant | water | 7 ml | O | H2O
solvent | DME | 44 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.415 g, 0.05 eq. | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3,5-Dimethyl-4-[2-(methoxy)-5-nitrophenyl]isoxazole | CC1=NOC(=C1C1=C(C=CC(=C1)[N+](=O)[O-])OC)C | C12H12N2O4
